US05451594
Aqueous 10% hydrochloric acid (50 cm3) was added to a solution of 2-(2-(1,3-dioxolan-2-yl)-ethyithio)benzthiazole (5.3 g) in tetrahydrofuran (50 cm3). After stirring at the ambient temperature for 6 hours the reaction mixture was left to stand for 48 hours during which time a white precipitate formed. The solid was collected by filtration, and a portion (2 g) dissolved in 2M sodium hydroxide solution and extracted with diethyl ether. The organic phase was dried with magnesium sulphate and evaporated under reduced pressure to give the crude 2-(3-oxopropylthio)-benzthiazole as a gummy yellow solid. This material was used without further purification in step 3. 1H NMR (CDCl3): δ9.85 (1H,s); 7.86 (2H,d); 7.78 (2H,d); 3.62 (2H,t); 3.12 (2H,t). Additional signals were observed at 611.73 and 67.50-7.00 but not assigned.

reactant | hydrochloric acid | 50 cm3 | Cl | ClH
reactant | 2-(2-(1,3-dioxolan-2-yl)-ethyithio)benzthiazole | 5.3 g | O1C(OCC1)CCSC=1SC2=C(N1)C=CC=C2 | C12H13NO2S2
solvent | tetrahydrofuran | 50 cm3 | O1CCCC1 | C4H8O
product | 2-(3-oxopropylthio)-benzthiazole | O=CCCSC=1SC2=C(N1)C=CC=C2 | C10H9NOS2
